US07291631B2
To a stirred degassed solution of 3-bromo-2-pyridinecarboxaldehyde (198 mg, 1.06 mmol) and 4-methylbenzene boronic acid (152 mg, 1.12 mmol) in DME/THF (3.5 mL, 2.5:1) were added a 2 M Na2CO3 solution (0.9 mL) and Pd(PPh3)4 (63 mg, 0.055 mmol). The reaction mixture was flushed with Ar and maintained under Ar while being heated at 90° C. overnight. The mixture was then cooled and diluted with EtOAc (40 mL) and brine (30 mL). The organic layer was washed with brine (1×30 mL), dried (Na2SO4), filtered and concentrated. Purification of the resultant oil by column chromatography with silica gel (Hexanes/EtOAc, 2:1) afforded 3-p-tolyl-pyridine-2-carbaldehyde (161 mg, 77%) as a yellow oil. 1H NMR (CDCl3) δ 2.43 (s, 3H), 7.25-7.28 (m, 4H), 7.53 (dd, 1H, J=9, 6 Hz), 7.79 (dd, 1H, J=9, 1 Hz), 8.80 (dd, J=3, 1 Hz), 10.09 (s, 1H).

reactant | 3-bromo-2-pyridinecarboxaldehyde | 1.06 mmol, 198 mg | BrC=1C(=NC=CC1)C=O | C6H4BrNO
reactant | 4-methylbenzene boronic acid | 1.12 mmol, 152 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 2 M, 0.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME THF | 3.5 mL | COCCOC.C1CCOC1
catalyst | Pd(PPh3)4 | 0.055 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-p-tolyl-pyridine-2-carbaldehyde | 161 mg, 77% | C1(=CC=C(C=C1)C=1C(=NC=CC1)C=O)C | C13H11NO
